US07858796B2
(26) 3-[1-(ethenylsulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide
To a solution of 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide (260 mg, 0.8 mmol) in CH2Cl2 at 0° C., triethylamine (0.44 mL, 3.2 mmol) and 2-chloroethylsulfonyl chloride (0.168 mL, 1.6 mmol) were added. The reaction mixture was stirred at 0° C. for 30 min. The reaction mixture was partitioned between CH2Cl2 (100 mL) and water (50 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2×100 mL). The combined organic phase washed with brine (50 mL), dried over magnesium sulfate and filtered. The solvent was removed under reduced pressure and purified via filtration through an SPE Cartridge (Aminopropyl NH2, 500 mg/6 mL) to give the title compound (245 mg, 75%).

reactant | 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.8 mmol, 260 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | TEA | 3.2 mmol, 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethylsulfonyl chloride | 1.6 mmol, 0.168 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[1-(ethenylsulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide | 245 mg, 75% | C(=C)S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C22H23N3O3S
